US09211340B2
1.300 g (32.49 mmol, 1.3 eq.) of sodium hydride were suspended under nitrogen in 170 mL of dry THF. 8.983 g (24.99 mmol, 1 eq.) of 1-(6-hydroxyhexyl)-N,N′-di-Boc-guanidine dissolved in dry THF were added dropwise to the suspension. The reaction was stirred at room temperature for 45min. 3.6 mL (29.99 mmol, 1.2 eq.) of benzyl bromide were added dropwise in 10min. The reaction was stirred overnight at room temperature. The reaction was checked by TLC and the reaction wasn't complete. 0.833 g (20.82 mmol) of sodium hydride were added. After 1 hour, the TLC was the same and 0.810 g (20.24 mmol) of sodium hydride were added. After 3 hours, no evolution was seen on TLC, 1.396 g (34.89 mmol) of sodium hydride and 1.6 mL (13.33 mmol) of benzyl bromide were added. The reaction was stirred overnight and TLC was still the same. The reaction was quenched by addition of water until clear solution. THF was removed in vacuo. Aqueous phase was extracted 3 times with ether. Organic phase was dried over anhydrous Na2SO4 and evaporated to obtain 15.44 g of a slightly yellow oil. This oil was purified by flash chromatography over silica (eluant AcOEt:pentane 1:9; Rf=0.43) to obtain 3.78 g of 1-(2-(benzyloxy)hexyl)-N,N′-di-Boc-guanidine as a colorless oil (yield=34%). 1H-NMR (500 MHz, CDCl3): δ=1.39 (m, 5H), 1.50 (s, 9H), 1.51 (s, 9H), 1.61 (m, 5H), 3.45 (m, 4H), 4.50 (m, 2H), 7.28 (m, 1H), 7.34 (m, 4H).

reactant | sodium hydride | 32.49 mmol, 1.300 g, 1.3 eq. | [H-].[Na+]
reactant | 1-(6-hydroxyhexyl)-N,N′-di-Boc-guanidine | 24.99 mmol, 8.983 g, 1 eq. | OCCCCCCN(C(=N)NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C17H33N3O5
reactant | benzyl bromide | 29.99 mmol, 3.6 mL, 1.2 eq. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 20.82 mmol, 0.833 g | [H-].[Na+]
reactant | sodium hydride | 20.24 mmol, 0.810 g | [H-].[Na+]
reactant | sodium hydride | 34.89 mmol, 1.396 g | [H-].[Na+]
reactant | benzyl bromide | 13.33 mmol, 1.6 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | THF | 170 mL | C1CCOC1 | C4H8O
product | 1-(2-(benzyloxy)hexyl)-N,N′-di-Boc-guanidine | 3.78 g, yield=34% | C(C1=CC=CC=C1)OC(CN(C(=N)NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CCCC | C24H39N3O5
